US07745438B2
(2R,5R)-5-[(1S,2S)-2-Amino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2-(2,2-dimethylpropoxy)-morpholine-4-carboxylic acid tert-butyl ester
Add sodium borohydride (0.86 g, 22.60 mmol) to (2R,5R)-5-[(1R,2S)-3-(3,5-difluorophenyl)-1-hydroxy-2-nitropropyl]-2-(2,2-dimethylpropoxy)-morpholine-4-carboxylic acid tert-butyl ester (2.30 g, 4.71 mmol) and nickel (II) chloride (1.34 g, 10.36 mmol) in methanol (47 mL) at room temperature over 2 minutes. Stir for 20 minutes, add water (˜3 mL) and concentrate. Dilute with ethyl acetate (˜75 mL), filter through Celite®, wash with 10% aqueous potassium carbonate, saturated aqueous sodium chloride, Dry (magnesium sulfate), filter and concentrate to give the title compound as an off-white solid (1.7 g, 78.7%).

reactant | sodium borohydride | 22.60 mmol, 0.86 g | [BH4-].[Na+]
reactant | (2R,5R)-5-[(1R,2S)-3-(3,5-difluorophenyl)-1-hydroxy-2-nitropropyl]-2-(2,2-dimethylpropoxy)-morpholine-4-carboxylic acid tert-butyl ester | 4.71 mmol, 2.30 g | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)[N+](=O)[O-])O)OCC(C)(C)C | C23H34F2N2O7
reactant | water | ˜3 mL | O | H2O
solvent | methanol | 47 mL | CO | CH4O
catalyst | nickel (II) chloride | 10.36 mmol, 1.34 g | [Ni](Cl)Cl
product | (2R,5R)-5-[(1S,2S)-2-Amino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2-(2,2-dimethylpropoxy)-morpholine-4-carboxylic acid tert-butyl ester | 1.7 g, 78.7% | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N)O)OCC(C)(C)C | C23H36F2N2O5
